US06677316B2
(2R,3R,4R,5S)-4-(acetyloxy)-5-[3-(tert-butyl)isoxazol-5-yl]-2-(6-{[1-(methylsulfonyl)piperidin-4-yl]amino}-9H-purin-9-yl)tetrahydrofuran-3-yl Acetate
To a solution of (2R,3R,4R,5S)-4-(Acetyloxy)-5-[3-(tert-butyl)isoxazol-5-yl]-2-[6-(piperidin-4-ylamino)-9H-purin-9-yl]tetrahydrofuran-3-yl acetate (40 mg) in tetrahydrofuran (4 ml) was added methanesulfonyl chloride (0.0088 ml) and triethylamine (0.0212 ml). The reaction mixture was stirred for 16 h at 20° C., and partitioned between ethyl acetate (2×100 ml) and water (100 ml). The organic layers were washed with water (100 ml), dried (MgSO4), and evaporated in vacuo to afford the title compound (36.7 mg) as a colourless gum.

reactant | (2R,3R,4R,5S)-4-(Acetyloxy)-5-[3-(tert-butyl)isoxazol-5-yl]-2-[6-(piperidin-4-ylamino)-9H-purin-9-yl]tetrahydrofuran-3-yl acetate | 40 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C1=CC(=NO1)C(C)(C)C)N1C2=NC=NC(=C2N=C1)NC1CCNCC1 | C25H33N7O6
reactant | methanesulfonyl chloride | 0.0088 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.0212 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (2R,3R,4R,5S)-4-(acetyloxy)-5-[3-(tert-butyl)isoxazol-5-yl]-2-(6-{[1-(methylsulfonyl)piperidin-4-yl]amino}-9H-purin-9-yl)tetrahydrofuran-3-yl Acetate | 36.7 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C1=CC(=NO1)C(C)(C)C)N1C2=NC=NC(=C2N=C1)NC1CCN(CC1)S(=O)(=O)C | C26H35N7O8S
